US07906654B2
2-methyl-2-(4-methylphenyl)propanenitrile (3.51 g, 15.7 mmol) is dissolved in dry DMF (10 mL). Zn(CN)2 (2.02 g, 17.2 mmol) and Pd(PPh3)4 (906 mg, 5 mol %) are added and the mixture heated at 100° C. for 3 hours. The reaction mixture is diluted with water and the solid recovered by filtration. The solid residue is dissolved in methanol, filtered to remove insoluble impurities, concentrated under vacuo and purified by normal phase MPLC (SiO2, hexane to EtOAc), giving 4-(1-cyano-1-methylethyl)benzonitrile (2.28 g, 13.4 mmol, 85%) as a white solid. 1H NMR (400 MHz, DMSO-D6) δ ppm 1.70 (s, 6H) 7.73 (dt, J=8.64, 2.03 Hz, 2H) 7.92 (dt, J=8.69, 2.00 Hz, 2H).

reactant | 2-methyl-2-(4-methylphenyl)propanenitrile | 15.7 mmol, 3.51 g | CC(C#N)(C)C1=CC=C(C=C1)C | C11H13N
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | Zn(CN)2 | 17.2 mmol, 2.02 g | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(PPh3)4 | 906 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(1-cyano-1-methylethyl)benzonitrile | 13.4 mmol, 2.28 g, 85% | C(#N)C(C)(C)C1=CC=C(C#N)C=C1 | C11H10N2
